US08076331B2
(S)-2-Methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propan-1-ol
(S)-3-Bromo-2-methylpropan-1-ol (6.2 g, 40 mmol) was dissolved in dry CH3CN (100 mL) and dry, pulverized K2CO3 (10.4 g, 75 mmol) was introduced followed by 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (11.0 g, 50 mmol). The reaction mixture was heated at 72° C. for 20 h, cooled and filtered. The filtrate was evaporated to an oil, which was applied to a column of silica gel. Elution initially with hexanes, gradually increasing polarity to a mixture of hexanes/ethyl acetate (3:2) as eluent, provided the title compound (7.56 g, 64%) as an oil.

reactant | (S)-3-Bromo-2-methylpropan-1-ol | 40 mmol, 6.2 g | BrC[C@H](CO)C | C4H9BrO
reactant | K2CO3 | 75 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 50 mmol, 11.0 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | (S)-2-Methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propan-1-ol | 7.56 g, 64% | C[C@@H](CO)COC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H25BO4
